US07199147B2
An aqueous solution (4 ml) of sodium nitrite (1.90 g, 27.5 mmol) was added to an aqueous solution (20 ml) of sodium sulfanilate dihydrate (5.78 g, 25.0 mmol). The resulting solution was dropped into a beaker containing concentrated hydrochloric acid (5.1 ml) and ice (30 g), and the resulting mixture was kept cold in an ice bath for 20 minutes to prepare solution A. An aqueous solution (30 ml) of sodium hydroxide (5.50 g, 138 mmol) and ice (20 g) were added to 3,5-dimethylphenol (3.05 g, 250 mmol) to effect dissolution, and then solution A was added dropwise thereto in an ice bath. The resulting solution was stirred in the ice bath for 1 hour and then heated to 65° C. to 75° C., and sodium dithionate (16.8 g, 96.5 mmol) was added thereto until the solution lost its color. The solution was cooled to room temperature and stirred for 30 minutes, and the solid formed was collected by filtration and dried to obtain 4-amino-3,5-dimethylphenol (2.46 g, 72%).

reactant | sodium nitrite | 27.5 mmol, 4 ml, 1.90 g | N(=O)[O-].[Na+]
reactant | sodium sulfanilate dihydrate | 25.0 mmol, 20 ml, 5.78 g | O.O.S(=O)(C1=CC=C(C=C1)N)(=O)[O-].[Na+]
reactant | hydrochloric acid | 5.1 ml | Cl | ClH
reactant | sodium hydroxide | 138 mmol, 30 ml, 5.50 g | [OH-].[Na+]
reactant | 3,5-dimethylphenol | 250 mmol, 3.05 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | sodium dithionate | 96.5 mmol, 16.8 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
product | 4-amino-3,5-dimethylphenol | 2.46 g, 72% | NC1=C(C=C(C=C1C)O)C | C8H11NO
